US07989457B2
Step F. 1-(4′-Trifluoromethyl-biphenyl-4-yl)-butan-2-one
Ethyl magnesium bromide (1.15 mmol, 3.0M in ethyl ether) is added drop-wise to a tetrahydro-furan (3 mL) solution of N-methoxy-N-methyl-2-(4′-trifluoromethyl-biphenyl-4-yl)-acetamide (0.248 g, 0.77 mmol) at −45° C. and stirred for one hour. Gradually raise temperature to −20° C. and stirred for one hour. The reaction is quenched by saturated ammonium chloride solution (1 mL) at 0° C., extracted with ethyl acetate and washed with water and brine. Organics are dried over sodium sulfate, filtered and concentrated. Column chromatography on silica gel with 0-30% ethyl acetate/hexane gradient gives 0.095 g (0.33 mmol, 42%) of the title compound.

reactant | Ethyl magnesium bromide | 1.15 mmol, 3.0M | C(C)[Mg]Br
reactant | tetrahydro-furan | 3 mL | O1CCCC1 | C4H8O
reactant | N-methoxy-N-methyl-2-(4′-trifluoromethyl-biphenyl-4-yl)-acetamide | 0.77 mmol, 0.248 g | CON(C(CC1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)=O)C | C17H16F3NO2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 1-(4′-Trifluoromethyl-biphenyl-4-yl)-butan-2-one | 0.33 mmol, 0.095 g, 42% | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)CC(CC)=O)(F)F | C17H15F3O
